Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:3],4.96892461753
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:4],4.52856774967
[C:1]=[O:2].[C:3]#[C:4][H:5]>>[C:1][O:2][C:3]#[C:4][H:5],0.85440318989
[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-8.76709082518
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.98303672363
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9],-0.851623154076
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12]=[C:13]([H:14])[H:15],0.7167465243699999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.18421319108
[C:5]([H:6])#[C:7][H:8].[H:1][C:2](=[C:3]([H:4])[C:10]([H:11])([H:12])[H:13])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.27041026724
[H:1][c:2]1[c:3][o:4][c:5]([H:6])[c:7]1[H:8]>>[H:1][C:2]([C:3][O:4][C:5][H:6])=[C:7][H:8],5.917463797640001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][H:10],1.13089341964
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.54975617886
[H:13].[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.3640033968200003
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([C:5]#[C:6][H:7])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-1.7322883022799995
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:11][H:12],3.06261748076
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[H:10],1.19978918239
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],5.07245672856
[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]#[C:7][H:8].[H:1][C:2][O:3][C:4]([H:5])[C:9]([H:10])([H:11])[H:12],5.350331130940001
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.692604879701
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[H:7],1.89025649644
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.198821436359999
[C:6]([H:7])([H:8])([C:9])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.54659593698
[C:6][H:7].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][H:7],-8.23032806736
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.733218082531
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.74270143485
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],4.052330749009999
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.0144017602999975
[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-7.71766183608
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:6]([H:7])([H:8])=[C:9]=[O:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.1126525319299998
